US06177423B1
6-Bromo-2-tert-butyloxy-benzo[de]isoquinoline-1,3-dione
O-tert-Butylhydroxylamine hydrochloride (3.0 g, 23.9 mmol) was added to 4-bromo-1,8-naphthalic anhydride (5.0 g, 18.0 mmol) in pyridine (30.0 mL). the mixture was refluxed for 4 hours, concentrated, and the residue suspended in water. The solid was filtered and dried to give 5.9 g of the title compound.

reactant | O-tert-Butylhydroxylamine hydrochloride | 23.9 mmol, 3.0 g | Cl.C(C)(C)(C)ON
reactant | 4-bromo-1,8-naphthalic anhydride | 18.0 mmol, 5.0 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)Br | C12H5BrO3
solvent | pyridine | 30.0 mL | N1=CC=CC=C1 | C5H5N
product | 6-Bromo-2-tert-butyloxy-benzo[de]isoquinoline-1,3-dione | 5.9 g | BrC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)OC(C)(C)C)=O | C16H14BrNO3
